US04957928
7.57 g (88 mmol) of acrylic acid methyl ester are added to a solution of 6.61 g (40 mmol) of 2-aminomethylbenzo-1,4-dioxan [J. Augustin et al., J. Med. Chem. 8, 446 (1965)] in 80 ml of methanol and the whole is stirred for 16 hours at 50°. After cooling, the reaction mixture is concentrated by evaporation in vacuo. 12.82 g (95%) of N,N-bis(2-methoxycarbonylethyl)-N-(benzo-1,4-dioxan-2-ylmethyl)-amine are obtained in the form of a reddish oil.

reactant | acrylic acid methyl ester | 88 mmol, 7.57 g | COC(C=C)=O | C4H6O2
reactant | 2-aminomethylbenzo-1,4-dioxan | 40 mmol, 6.61 g | NCC1COC2=C(O1)C=CC=C2 | C9H11NO2
solvent | methanol | 80 ml | CO | CH4O
product | N,N-bis(2-methoxycarbonylethyl)-N-(benzo-1,4-dioxan-2-ylmethyl)-amine | 12.82 g, 95% | COC(=O)CCN(CC1COC2=C(O1)C=CC=C2)CCC(=O)OC | C17H23NO6
